US04288453
4-fluoro-α,α,α-trifluoroacetophenone
In a three-neck flask, 52.5 g of 4-fluoro-1-bromobenzene are charged with 60 ml ether, then 7.3 g magnesium turnings. The walls of the flask are rinsed with a few ml ether. Small crystals of iodine are added thereto and the mixture is heated to reflux until all the magnesium has reacted with the same. The mixture is left to revert to room temperature, then a solution of 11.4 g trifluoro acetic acid in 15 ml ether is very slowly added in about 20 minutes. The inner temperature is kept at about 20°-30° by external cooling. The mixture is kept aside at room temperature for 15 minutes and then heated to reflux for three hours. The mixture is thereafter kept in a cool place for 12 hours. The cooled mixture is poured on a mixture of crushed ice and chlorhydric acid. The etherous phase is separated. The aqueous phase is extracted twice with 100 ml ether.

reactant | 4-fluoro-1-bromobenzene | 52.5 g | FC1=CC=C(C=C1)Br | C6H4BrF
reactant | magnesium | 7.3 g | [Mg] | Mg
reactant | trifluoro acetic acid | 11.4 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | chlorhydric acid | Cl | ClH
solvent | ether | 15 ml | CCOCC | C4H10O
solvent | ether | 60 ml | CCOCC | C4H10O
product | 4-fluoro-α,α,α-trifluoroacetophenone | C1=CC(=CC=C1C(=O)C(F)(F)F)F | C8H4F4O
